US07482366B2
6-(4-Bromo-thiophen-2-yl)-1-(2,4-difluoro-benzyl)-2-oxo-4-trifluoromethyl-1,2-dihydro-pyridine-3-carbonitrile 620 mg, 1.3 mmoles), [3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester (520 mg, 1.95 mmoles), [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) complex with DCM (1:1) (32 mg, 0.39 mmoles), and K2CO3 (540 mg, 3.91 mmoles) were combined in 6 ml of DME/H2O (9:1, degassed), and were stirred at 85° C. for 5 hours. After this period the reaction mix was evaporated and purified using flash silica chromatography (0-30% EtOAc/Hexane) to yield (3-{5-[5-cyano-1-(2,4-difluoro-benzyl)-6-oxo-4-trifluoromethyl-1,6-dihydro-pyridin-2-yl]-thiophen-3-yl}-phenyl)-acetic acid methyl ester (365 mg, 52%) as a yellow solid. 1H-NMR (CDCl3): δ 7.64 (br d, J=1.3 Hz, 1H), 7.39-7.35 (m, 2H), 7.33 (br d, J=1.3 Hz, 1H), 7.14-7.07 (m, 1H), 6.92-6.85 (m, 1H), 6.84-6.77 (m, 1H), 6.65 (s, 1H), 5.44 (s, 2H), 3.72 (s, 3H), 3.67 (s, 2H). MS(ES+): 545.3 (M+H).

reactant | 6-(4-Bromo-thiophen-2-yl)-1-(2,4-difluoro-benzyl)-2-oxo-4-trifluoromethyl-1,2-dihydro-pyridine-3-carbonitrile | 1.3 mmoles, 620 mg | BrC=1C=C(SC1)C1=CC(=C(C(N1CC1=C(C=C(C=C1)F)F)=O)C#N)C(F)(F)F | C18H8BrF5N2OS
reactant | [3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester | 1.95 mmoles, 520 mg | COC(CC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C15H21BO4
reactant | DCM | 0.39 mmoles, 32 mg | C(Cl)Cl | CH2Cl2
reactant | K2CO3 | 3.91 mmoles, 540 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DME H2O | 6 ml | COCCOC.O
product | (3-{5-[5-cyano-1-(2,4-difluoro-benzyl)-6-oxo-4-trifluoromethyl-1,6-dihydro-pyridin-2-yl]-thiophen-3-yl}-phenyl)-acetic acid methyl ester | 365 mg, 52% | COC(CC1=CC(=CC=C1)C1=CSC(=C1)C=1N(C(C(=C(C1)C(F)(F)F)C#N)=O)CC1=C(C=C(C=C1)F)F)=O | C27H17F5N2O3S
